US08957089B2
82.6 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide
1-Propylamine (314 mg, 5.31 mmol) was dissolved in dichloromethane (3 mL) and a solution of 3-({1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride (200 mg, 0.442 mmol) in dichloromethane (2 mL) was added dropwise. After 1 h stirring at room temperature the reaction mixture was diluted with dichloromethane (10 mL) and was washed with aqueous ammonium chloride solution (2×) and water (1×), dried (MgSO4) and concentrated in vacuo. The crude product (265 mg) was used for the next step without purification.

reactant | 1-Propylamine | 5.31 mmol, 314 mg | C(CC)N | C3H9N
reactant | 3-({1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride | 0.442 mmol, 200 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)Cl | C22H23Cl2NO3S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)NCCC | C25H31ClN2O3S
